US07553854B2
To the solution of 2-methylsulfanyl-benzothiazol-6-ol (3.76 g, 19.08 mmol, 1.0 eq) in DMF (25 mL), was added CsCO3 (15.54 g, 47.70 mmol, 2.5 eq) at room temperature. After stirring for a while, 4-chloro-pyridine-2-carboxylic acid methylamide (4.86 g, 28.62 mmol, 1.5 eq) was added to the mixture and the mixture was stirred at 70° C. under reflux condenser overnight. After cooling the reaction mixture in ice bath, water (100 mL) was added and the aqueous layer was extracted with ethyl acetate (3×150 mL). The organic layer was dried over sodium sulfate, filtered, and evaporated in vacuo. The crude product was purified using 20 g of ISCO Silica Gel column (0%-50%-80%-100% ethyl acetate-hexane mixture over 45 min 40 mL/min run) to yield 4-(2-methylsulfanyl-benzothiazol-6-yloxy)-pyridine-2-carboxylic acid methylamide (3.88 g, 62%) as a white solid. M+H=332.1

reactant | 2-methylsulfanyl-benzothiazol-6-ol | 19.08 mmol, 3.76 g, 1.0 eq | CSC=1SC2=C(N1)C=CC(=C2)O | C8H7NOS2
reactant | 4-chloro-pyridine-2-carboxylic acid methylamide | 28.62 mmol, 4.86 g, 1.5 eq | CNC(=O)C1=NC=CC(=C1)Cl | C7H7ClN2O
reactant | water | 100 mL | O | H2O
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 4-(2-methylsulfanyl-benzothiazol-6-yloxy)-pyridine-2-carboxylic acid methylamide | 3.88 g, 62% | CNC(=O)C1=NC=CC(=C1)OC1=CC2=C(N=C(S2)SC)C=C1 | C15H13N3O2S2
